US09232800B2
A mixture of 4-chloro-2-methylbenzaldehyde (229 mg, 1.49 mmol), N′-hydroxyfuran-2-carboximidamide (263 mg, 2.1 mmol) and one drop of piperidine was heated to 100° C. for 4 h. It was cooled to RT and purified by automated column chromatography on the ISCO-companion (SiO2, gradient heptane/ethyl acetate) to give the 5-(4-chloro-2-methylphenyl)-3-(furan-2-yl)-4,5-dihydro-1,2,4-oxadiazole product (94 mg, 0.36 mmol) as an off-white solid with an HPLC purity 99%. The overall yield was approximately 24%. LC-MS [M+H] 263 (C13H11ClN2O2+H, expected 263.05).

reactant | 4-chloro-2-methylbenzaldehyde | 1.49 mmol, 229 mg | ClC1=CC(=C(C=O)C=C1)C | C8H7ClO
reactant | N′-hydroxyfuran-2-carboximidamide | 2.1 mmol, 263 mg | ON=C(N)C=1OC=CC1 | C5H6N2O2
catalyst | piperidine | one drop | N1CCCCC1 | C5H11N
product | 5-(4-chloro-2-methylphenyl)-3-(furan-2-yl)-4,5-dihydro-1,2,4-oxadiazole | 0.36 mmol, 94 mg, yield was approximately 24% | ClC1=CC(=C(C=C1)C1NC(=NO1)C=1OC=CC1)C | C13H11ClN2O2
